US05990133
3-(3-Aminobenzoylamino)-pyridine
A solution of 3-(3-nitrobenzoylamino)-pyridine (2 g, 8.23 mmol) in ethanol (200 ml) was treated with 10% palladium on charcoal (0.5 g) and hydrogenated at atmospheric pressure for 4 h. Filtration and evaporation afforded the product as a white solid (1.51 g, 86%)

reactant | 3-(3-nitrobenzoylamino)-pyridine | 8.23 mmol, 2 g | [N+](=O)([O-])C=1C=C(C(=O)NC=2C=NC=CC2)C=CC1 | C12H9N3O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | 3-(3-Aminobenzoylamino)-pyridine | 1.51 g, 86% | NC=1C=C(C(=O)NC=2C=NC=CC2)C=CC1 | C12H11N3O
